US06255285B1
To a solution of 436 mg (0.786 mmol) of N-[2-(benzoxycarbonylamino)-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-(tert-butoxycarbonylamino)-3-methyl butanamide in methylene chloride (2 ml), TFA (2 ml) was added and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and to the residue, saturated aqueous NaHCO3 was added under cooling with ice and the mixture was extracted with chloroform and washed with saturated brine. The organic layer was dried with magnesium sulfate and the solvent was distilled off under reduced pressure; the resulting residue was dissolved in MeCN (3 ml) and under cooling with ice, 245 mg (0.866 mmol) of Z-phenylalaninal, 0.1 ml of acetic acid and 98.8 mg (1.57 mmol) of sodium cyanoborohydride were added to the solution, which was then stirred for 3 hours. After adding water, the solution was extracted with chloroform and washed with saturated brine. The organic layer was dried with magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=1:1) to give N-[2-benzoxycarbonylamino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-[[2-(benzoxycarbonylamino)-3-phenylpropyl]-amino]-3-methyl butanamide in the amount of 282 mg (50%).

reactant | N-[2-(benzoxycarbonylamino)-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-(tert-butoxycarbonylamino)-3-methyl butanamide | 0.786 mmol, 436 mg | C(C1=CC=CC=C1)OC(=O)NCC(CC1=CC(=C(C=C1)O)C(C)(C)C)NC(C(C(C)C)NC(=O)OC(C)(C)C)=O | C31H45N3O6
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.57 mmol, 98.8 mg | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[2-benzoxycarbonylamino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-[[2-(benzoxycarbonylamino)-3-phenylpropyl]-amino]-3-methyl butanamide | C(C1=CC=CC=C1)OC(=O)NCC(CC1=CC(=C(C=C1)O)C(C)(C)C)NC(C(C(C)C)NCC(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C43H54N4O6
